US05514690
D. 1,1-Dimethyl-5-nitro-3-indanone
A mixture of nitric acid (90% fuming, 35 mL) and urea (0.17 g) was cooled to -10° C. and purged with air for 20 minutes; 3,3-dimethyl-1-indanone (8.68 g, 54.2 mmoles) was added and the reaction was stirred for two hours at -10° C. to 5° C. The reaction mixture was poured into ice/H2O and extracted with ethyl acetate. The combined extracts were washed with distilled H2O, saturated NaHCO3 solution, saturated NaCl solution, and dried over MgSO4. The solvent was recovered under vacuum to obtain 10.0 g of a yellow solid. The crude product was recrystallized from methanol in two crops to obtain 8.08 g (71%) of the title D compound as yellow needles. MS: M- @ 205.

reactant | nitric acid | 35 mL | [N+](=O)(O)[O-] | HNO3
reactant | urea | 0.17 g | NC(=O)N | CH4N2O
reactant | 3,3-dimethyl-1-indanone | 54.2 mmoles, 8.68 g | CC1(CC(C2=CC=CC=C12)=O)C | C11H12O
product | 1,1-Dimethyl-5-nitro-3-indanone | 10.0 g | CC1(CC(C2=CC(=CC=C12)[N+](=O)[O-])=O)C | C11H11NO3
